US08217200B2
2-hydroxyethoxy-acetic acid-N,N-dimethylamide
200.4 g (1 mol) of crude 2-hydroxyethoxy-acetic acid sodium salt prepared from ethylene glycol monosodium salt and 69 weight % sodium chloroacetate are placed into a 1000 ml round bottom flask equipped with stirrer. 81.5 g (1 mole) of commercial dimethylamine hydrochloride having approximately 8 weight % moisture are added. The reaction mixture is heated to the temperature of 130° C. and is kept at this temperature for 20 minutes. After this period, 400 ml of toluene are added to the reaction mixture and by boiling the azeotropic mixture for a period of 16 hours, the water is separated. After cooling the reaction mixture, sodium chloride is filtered off and the crystals are washed twice with 20 ml toluene each. The toluene phases are combined and the product is isolated by evaporating the toluene. Yield 116.2 g (78.9%) of the title compound having the purity greater than 96% by gas chromatography. The product thus obtained is directly suitable for the conversion into 2-chloroethoxy-acetic acid-N,N-dimethylamide.

reactant | 2-hydroxyethoxy-acetic acid sodium salt | 1 mol, 200.4 g | [Na+].OCCOCC(=O)[O-]
reactant | ethylene glycol monosodium salt | [Na].C(CO)O
reactant | sodium chloroacetate | ClCC(=O)[O-].[Na+]
reactant | dimethylamine hydrochloride | 1 mole, 81.5 g | Cl.CNC
reactant | 2-chloroethoxy-acetic acid-N,N-dimethylamide | CN(C(COCCCl)=O)C | C6H12ClNO2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxyethoxy-acetic acid-N,N-dimethylamide | CN(C(COCCO)=O)C | C6H13NO3
